US08809371B2
p-Toluenesulfonyl chloride (2 g) and tetrabutyl ammonium hydrogen sulfate (250 mg) were added to a toluene (20 ml) solution containing 5-chloroindole (1.52 g), followed by stirring at room temperature for 11 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with water (×3) and saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=0:1 to 1:1), and a colorless solid of 5-chloro-1-tosyl-1H-indole (3.18 g) was thus obtained.

reactant | p-Toluenesulfonyl chloride | 2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-chloroindole | 1.52 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
catalyst | tetrabutyl ammonium hydrogen sulfate | 250 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
product | 5-chloro-1-tosyl-1H-indole | 3.18 g | ClC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1 | C15H12ClNO2S
